US08859768B2
To a round bottom flask was added 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid (1.1 g, 2.8 mmol), DCM (35 mL), TBTU (3.6 g, 11.3 mmol), and TEA (3.0 mL, 21.5 mmol). The mixture was allowed to stir for 5 min at rt and then ammonia (0.5M in dioxane, 32 mL) was added. The resulting mixture was allowed to stir at rt overnight. The mixture was concentrated and the residue was washed with water to give 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxamide (0.96 g, 92%). LCMS (FA): m/z=371.0 (M+H).

reactant | 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid | 2.8 mmol, 1.1 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)O)C1=C(C=CC=C1)Cl)C | C18H14ClN3O4
reactant | TBTU | 11.3 mmol, 3.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonia | 0.5M, 32 mL | N | H3N
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxamide | 0.96 g, 92% | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)N)C1=C(C=CC=C1)Cl)C | C18H15ClN4O3
